US08217029B2
50.i) [1-(6-Methoxy-[1,5]naphthyridin-4-yl)-azetidin-3-yl]-carbamic acid benzyl ester
According to procedure F and starting from trifluoromethanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester (prepared according to WO 02/008224) and azetidin-3-yl-carbamic acid benzyl ester the desired intermediate was isolated after trituration with ether as a colorless solid (5.05 g, 71%).

reactant | trifluoromethanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | azetidin-3-yl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CNC1)=O | C11H14N2O2
solvent | ether | 5.05 g | CCOCC | C4H10O
product | [1-(6-Methoxy-[1,5]naphthyridin-4-yl)-azetidin-3-yl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1CN(C1)C1=CC=NC2=CC=C(N=C12)OC)=O | C20H20N4O3
